US05416112
STEP 2: 4-amino-4'-chloro-benzophenone
A suspension of 14.4g (54.8 mmol) of 4-chloro-4'-nitrobenzophenone and 66.9 mg, (0.5 mole %) of platinum oxide was stirred under hydrogen in 300 ml of ethanol for 2 hours The mixture was filtered, evaporated and purified by flash column chromatography (2-8% EtOAc/CH2C12) to obtain 10.05 g (72%) of the desired product as a yellow solid. 1H nmr (CDCl3) δ4.16 (2H, br s), 6.67 (2H, d), 7.43 (2H, d), 7.68 (2H, d), 7.69 (2H, d).

reactant | 4-chloro-4'-nitrobenzophenone | 54.8 mmol, 14.4g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H8ClNO3
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 4-amino-4'-chloro-benzophenone | 10.05 g, 72% | NC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H10ClNO
